US08198364B2
4-Hydroxy-4-(4′-bromophenyl)butan-2-one 36
A stirred solution of catalyst 35 (0.01 g, 0.011 mmol) in dry DMF (0.785 mL) and acetone (0.392 mL, 2.72 mmol) was treated with 4-bromobenzaldehyde (0.0072 g, 0.04 mmol), stirred at room temperature for 68 h and Resin 35 was filtered off. The mixture was treated with Et2O and washed twice with water Et2O phase was dried and concentrated The product was analyzed by the 1H NMR spectroscopy of the crude 1H NMR spectroscopy of the crude showed a 70% conversion by measuring the CHOH peak of the aldol product at 5.12 ppm vs the CHO peak of the p-bromobenzaldehyde at 9.90 ppm 1H NMR (CDCl3, 400 MHz): δ=2.20 (s, 3H), 2.82 (m, 2H), 5.12 (m, 1H), 3.58-3.69 (m, 1H), 4.11-4.17 (m, 1H), 4.29-4.35 (m, 2H), 7.24-47 (m, 4H). Moreover, examination of the aldol product by chiral HPLC using a Chiralpak AS Daicel (i-PrOH/hexane 15/85), UV 280 nm, flow rate 1.0 mL/min, tRminor 8.950 min and tRmajor 10.143 min showed the presence of one single peak at 8.950 min retention time.

reactant | acetone | 2.72 mmol, 0.392 mL | CC(=O)C | C3H6O
reactant | 4-bromobenzaldehyde | 0.04 mmol, 0.0072 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
catalyst | Proline | 0.011 mmol, 0.01 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | DMF | 0.785 mL | CN(C)C=O | C3H7NO
product | 4-Hydroxy-4-(4′-bromophenyl)butan-2-one | OC(CC(C)=O)C1=CC=C(C=C1)Br | C10H11BrO2
